US06869954B2
Preparation of 6-(4-fluoro-3-methylphenyl)-2-isobutyl-4-(morpholino)methyl-2H-pyridazin-3-one
Following the procedure of Example 92, 6-(4-fluoro-3-methylphenyl)-2-isobutyl-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and morpholine were reacted to yield the title compound as a slightly yellow oil (yield: 97.4%).

reactant | 6-(4-fluoro-3-methylphenyl)-2-isobutyl-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | FC1=C(C=C(C=C1)C=1C=C(C(N(N1)CC(C)C)=O)COS(=O)(=O)C)C | C17H21FN2O4S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 6-(4-fluoro-3-methylphenyl)-2-isobutyl-4-(morpholino)methyl-2H-pyridazin-3-one | FC1=C(C=C(C=C1)C=1C=C(C(N(N1)CC(C)C)=O)CN1CCOCC1)C | C20H26FN3O2
